US04105772
3-(1-Methyl-3-nitro-4-pyrazolyl)-acrylic acid N-cyclopropylamide
N,N-diethylethylenediamine, 3-(1-methyl-3-nitro-4-pyrazolyl)-acrylic acid N-diethylaminoethylamide; m.p. 109°-110° C.

reactant | N,N-diethylethylenediamine | C(C)N(CCN)CC | C6H16N2
reactant | 3-(1-methyl-3-nitro-4-pyrazolyl)-acrylic acid N-diethylaminoethylamide | C(C)N(CC)CCNC(C=CC=1C(=NN(C1)C)[N+](=O)[O-])=O | C13H21N5O3
product | 3-(1-Methyl-3-nitro-4-pyrazolyl)-acrylic acid N-cyclopropylamide | C1(CC1)NC(C=CC=1C(=NN(C1)C)[N+](=O)[O-])=O | C10H12N4O3
